US08420670B2
43.2 (3,4-Dichlorobenzyl)-(2-methyl-8-propoxyquinolin-4-yl)-amine
Preparation was made using a similar procedure as described in example 5, method 5.1. Starting materials were 4-chloro-2-methyl-8-propoxyquinoline and 3,4-dichlorobenzylamine. A catalytic effective amount of copper(II)sulphate hydrate was added to the reaction mixture. The product was purified using silica gel chromatography, eluting with dichloromethane:methanol 90:10.

reactant | 4-chloro-2-methyl-8-propoxyquinoline | ClC1=CC(=NC2=C(C=CC=C12)OCCC)C | C13H14ClNO
reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
catalyst | copper(II)sulphate hydrate | O.S(=O)(=O)([O-])[O-].[Cu+2]
product | (3,4-Dichlorobenzyl)-(2-methyl-8-propoxyquinolin-4-yl)-amine | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OCCC)C)C=CC1Cl | C20H20Cl2N2O
